US07091214B2
7-Bromo-4-chloro-3-nitroquinoline (29.54 g, 102.7 mmol) was reacted with 3-methoxy propyl amine (10.07 g, 113.0 mmol) according to the method described in Part A of Examples 125–135 to provide 32.9 g of (7-bromo-3-nitroquinolin-4-yl)-(3-methoxypropyl)amine as a yellow solid. The product was not recrystallized.

reactant | 7-Bromo-4-chloro-3-nitroquinoline | 102.7 mmol, 29.54 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C9H4BrClN2O2
reactant | 3-methoxy propyl amine | 113.0 mmol, 10.07 g | COCCCN | C4H11NO
product | (7-bromo-3-nitroquinolin-4-yl)-(3-methoxypropyl)amine | 32.9 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCCOC | C13H14BrN3O3
